US07977344B2
N2-Butyl-8-methoxy-9-[2-(tetrahydro-2H-pyran-3-yl)ethyl]-9H-purine-2,6-diamine
A stirring mixture of N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt (200 mg) and potassium carbonate (236 mg) in dry N,N-dimethylformamide (2 ml) was heated with stirring at 60° C. for 1 h. 2-(Tetrahydro-2H-pyran-3-yl)ethyl methanesulfonate (142 mg) was added and the stirring mixture heated at 60° C. for 3 h. Water was added and the mixture extracted three times with ethyl acetate. The combined extracts were washed with water then brine, dried by passing through a phase separation cartridge and stripped to give a brown oil. This was purified by C18 reverse phase chromatography using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (20-60%) and the appropriate fractions combined and evaporated to remove acetonitrile. The remaining aqueous mixture was made basic with saturated sodium hydrogen carbonate, extracted three times with dichloromethane and the combined extracts dried by passing through a phase separation cartridge then evaporated to afford the title compound as a brown solid, yield 138 mg.

reactant | N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 200 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 236 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(Tetrahydro-2H-pyran-3-yl)ethyl methanesulfonate | 142 mg | CS(=O)(=O)OCCC1COCCC1 | C8H16O4S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N2-Butyl-8-methoxy-9-[2-(tetrahydro-2H-pyran-3-yl)ethyl]-9H-purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCC1COCCC1)OC)N | C17H28N6O2
